US04532240
4-[4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoic acid, ethyl ester
A mixture of 1.0 g (2.96 mmole) of 5-[4-(4-cyanophenyl)-1-piperazinyl]-6-propyl-2,4-pyrimidinediamine, 15 ml of 95% ethanol and 15 ml of sulfuric acid was heated under reflux at 100° C. for four hours and cooled. The solution was poured into 200 ml of ice water and filtered. The filtrate was kept cool and neutralized with 50% aqueous sodium hydroxide solution to pH 7. The solid was collected and washed with 50 ml of water. Recrystallization from N,N-dimethylformamide and drying in vacuo at 78° C. for 16 hours gave 0.7 g of the product as a white solid, mp 215°-216° C.

reactant | 5-[4-(4-cyanophenyl)-1-piperazinyl]-6-propyl-2,4-pyrimidinediamine | 2.96 mmole, 1.0 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1CCC)N)N | C18H23N7
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoic acid, ethyl ester | 0.7 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1)CCC | C20H28N6O2
